US08440666B2
2-[5-Cyano-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide
2-[5-Bromo-6-oxo-4{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide (100 mg, 0.21 mmol) in N-methylpyrrolidone (2.5 mL) was mixed with copper cyanide (100 mg, 1.05 mmol) at room temperature and stirred at 110° C. for 24 hours. After completion of the reaction, the reaction solution was mixed with water and extracted with ethyl acetate and chloroform. The extract was dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (chloroform/methanol=10/1) to give the desired product (4.3 mg, 5% yield).

reactant | 2-[5-Bromo-6-oxo-4{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 0.21 mmol, 100 mg | BrC1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C22H28BrN5O2
reactant | copper cyanide | 1.05 mmol, 100 mg | [Cu](C#N)C#N
reactant | water | O | H2O
solvent | N-methylpyrrolidone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
product | 2-[5-Cyano-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-(pyridin-4-ylmethyl)acetamide | 4.3 mg, 5% yield | C(#N)C1=C(C=NN(C1=O)CC(=O)NCC1=CC=NC=C1)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C23H28N6O2
